US05292738
A mixture of 3.5 parts of N-(6-chloro-3-pyridazinyl)acetamide, 3.6 parts of 1-(3-methylphenyl)piperazine and 2.8 parts of potassium carbonate was stirred for 7 hours 1n an oil bath at 160° C. After cooling, trichloromethane and water were added. The layers were separated. The organic layer was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (97:3 by volume) as eluent. The second fraction was collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in 2-propanol and 2-propanone. The salt was filtered off and dried, yielding 0.5 parts (6.6%) of 6-4-(3-methylphenyl)-1-piperazinyl]-3-pyridazinamine dihydrochloride; mp. 178.5° C. (compound 220).

reactant | N-(6-chloro-3-pyridazinyl)acetamide | ClC1=CC=C(N=N1)NC(C)=O | C6H6ClN3O
reactant | 1-(3-methylphenyl)piperazine | CC=1C=C(C=CC1)N1CCNCC1 | C11H16N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | trichloromethane | ClC(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 3-pyridazinamine dihydrochloride | Cl.Cl.N1=NC(=CC=C1)N | InChI=1S/C4H5N3.2ClH/c5-4-2-1-3-6-7-4;;/h1-3H,(H2,5,7);2*1H
